US06239142B1
N-(4-Chlorobenzyl)-7-ethyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide
A mixture of ethyl 7-ethyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxylate (Eur. J. Med. Chem. 1987, 22, 139) (0.447 g) and 4-chlorobenzylamine (2.42 mL) is stirred at 190° C. for 1 h. The reaction is then allowed to cool to rt and is diluted with toluene. The resulting precipitate is filtered off and washed with toluene followed by hexanes to yield a pale yellow solid. This material is recrystallized from acetic acid/water then ethanol to yield 0.312 g (45%) of the title compound as a white solid.

reactant | ethyl 7-ethyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxylate | 0.447 g | C(C)N1C2=C(C(C(=C1)C(=O)OCC)=O)C=CS2 | C12H13NO3S
reactant | 4-chlorobenzylamine | 2.42 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(4-Chlorobenzyl)-7-ethyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | 0.312 g, 45% | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)CC)SC=C3)=O)C=C1 | C17H15ClN2O2S
